US08097634B2
Step A): 2-(4-(2,2,2-trifluoroethyl)phenyl)-2,8-diazaspiro[4.5]decane-1,7-dione
This material was prepared as a white solid (0.72 g) in analogy to example 1 step D) from 4-(2-methoxy-ethyl)-2-oxo-piperidine-4-carboxylic acid ethyl ester (1.03 g), dimethylaluminium chloride (0.9 M in hexane, 20 ml) and 4-(2,2,2-trifluorethyl)aniline (1.2 g). MS (ESI): 327.13 (MH−).

reactant | 4-(2-methoxy-ethyl)-2-oxo-piperidine-4-carboxylic acid ethyl ester | 1.03 g | C(C)OC(=O)C1(CC(NCC1)=O)CCOC | C11H19NO4
reactant | 4-(2,2,2-trifluorethyl)aniline | 1.2 g | FC(CC1=CC=C(N)C=C1)(F)F | C8H8F3N
solvent | dimethylaluminium chloride | 0.9 M, 20 ml | [Cl-].C[Al+]C
product | 2-(4-(2,2,2-trifluoroethyl)phenyl)-2,8-diazaspiro[4.5]decane-1,7-dione | FC(CC1=CC=C(C=C1)N1C(C2(CC1)CC(NCC2)=O)=O)(F)F | C16H17F3N2O2
